US07091222B2
2-Chloro-4-(1-cydobutylmethyl-2-methyl-1H-imidazol-4-ylethynyl)-pyridine
The title compound, MS: m/e=286.1 (M+H+), was prepared in accordance with the general method of example 1 from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and cydobutyl-methylbromide.

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | cydobutyl-methylbromide | C1(CCC1)CBr | C5H9Br
product | 2-Chloro-4-(1-cydobutylmethyl-2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)CC1CCC1)C | C16H16ClN3
